US04066651
A mixture of 1-o-chlorobenzyl-4-methyl-6-methoxy-2-oxo-1,2-dihydroquinoline (2.5g.), oil-free sodium hydride (obtained from 2.5g. of a 50% w/w suspension as described in Example 1) and diethyl carbonate (50 ml.) was heated over 1 hour to reflux and the reflux maintained for 3 hours. The mixture was cooled and treated with methanol (2ml.) to destroy excess sodium hydride. Ether (200ml.) was added and the yellow precipitate was filtered off, washed with ether (50ml.), and dried, and was then suspended in dimethylformamide (100 ml.) containing methyl iodide (4 ml.). After 24 hours standing at room temperature, the mixture was diluted with water (200 ml.) and the aqueous mixture extracted with ether (3 × 100ml.). The combined ethereal extracts were washed with water (2 × 100ml.), and dried with magnesium sulphate, and the ether was evaporated. The residue, which comprised diethyl α-(1-o-chlorobenzyl-6-methoxy-2-oxo-1,2-dihydroquinol-4-yl)-α-methylmalonate, was dissolved in a solution of potassium hydroxide (3.6 g.) in water (4ml.) and ethanol (100ml.). The mixture was refluxed for 1 hour, cooled, and diluted with N-hydrochloric acid (100ml.). The resulting mixture was filtered, and the solid residue washed with water and crystallised from methanol (100ml.) to give α-(1-o-chlorobenzyl-6-methoxy-2-oxo-1,2-dihydroquinol-4-yl)propionic acid, m.p. 187°-188° C. in 48% yield.

reactant | 1-o-chlorobenzyl-4-methyl-6-methoxy-2-oxo-1,2-dihydroquinoline | 2.5g | ClC1=C(CN2C(C=C(C3=CC(=CC=C23)OC)C)=O)C=CC=C1 | C18H16ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | diethyl carbonate | 50 ml | C(OCC)(OCC)=O | C5H10O3
reactant | methanol | 2ml | CO | CH4O
product | α-(1-o-chlorobenzyl-6-methoxy-2-oxo-1,2-dihydroquinol-4-yl)propionic acid | 48% yield | ClC1=C(CN2C(C=C(C3=CC(=CC=C23)OC)C(C(=O)O)C)=O)C=CC=C1 | C20H18ClNO4
